US08871738B2
To a 250 mL RBF was added tert-butyl 4-(5-chloro-6-methoxypyridin-3-yl)-3-methylbenzoate (4.5 g, 13.5 mmol), bis(pinacolato)diboron (6.85 g, 27.0 mmol), potassium acetate (3.97 g, 40.4 mmol), and chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) (0.212 g, 0.27 mmol) followed by anhydrous dioxane (50 mL). The system was evacuated and backfilled with nitrogen (3×) and was heated to 120° C. for 2 hours. The mixture was cooled, filtered over Celite (ethyl acetate wash) and was concentrated. The residue was purified by column chromatography to afford tert-butyl 4-[6-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]-3-methylbenzoate as a solid (4.3 g, 10.11 mmol). MS ESI calc'd. for C24H33BNO5 [M+H]+ 426.2. found 426.0.

reactant | tert-butyl 4-(5-chloro-6-methoxypyridin-3-yl)-3-methylbenzoate | 13.5 mmol, 4.5 g | ClC=1C=C(C=NC1OC)C1=C(C=C(C(=O)OC(C)(C)C)C=C1)C | C18H20ClNO3
reactant | bis(pinacolato)diboron | 27.0 mmol, 6.85 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 40.4 mmol, 3.97 g | C(C)(=O)[O-].[K+]
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) | 0.27 mmol, 0.212 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-[6-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]-3-methylbenzoate | 10.11 mmol, 4.3 g | COC1=C(C=C(C=N1)C1=C(C=C(C(=O)OC(C)(C)C)C=C1)C)B1OC(C(O1)(C)C)(C)C | C24H32BNO5
